US08227601B2
To a suspension of 4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine (500 mg, 2.97 mmol) in 1,2-dichloroethane (40 mL) at −10° C. under argon was added antimony chloride (750 mg, 3.29 mmol). After stirring for 5 min, tert-butylnitrite (2.50 mL, 20.8 mmol) was added to the solution. The reaction was stirred at −10° C. for 3 h. The reaction was diluted with CHCl3 (100 mL) and poured into ice water (50 mL). The CHCl3 layer was separated, washed with brine (20 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=50:50) yielded 239 mg (43%) of 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine as a tan solid.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 2.97 mmol, 500 mg | ClC=1C2=C(N=C(N1)N)NC=C2 | C6H5ClN4
reactant | antimony chloride | 3.29 mmol, 750 mg | [Sb](Cl)(Cl)Cl
reactant | tert-butylnitrite | 20.8 mmol, 2.50 mL | C(C)(C)(C)ON=O | C4H9NO2
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 239 mg, 43% | ClC=1N=C(C2=C(N1)NC=C2)Cl | C6H3Cl2N3
